US04140696
3-Amino-5-methyl-2-phenyl-4-phenylcarbamoylpyrrole
This compound is prepared starting from 2-amino-2-phenylacetonitrile and α-acetyl-N-phenyl-acetamide, and is obtained with a 73% overall yield, m.p. 271°-73° C. (from ethanol).

reactant | 2-amino-2-phenylacetonitrile | NC(C#N)C1=CC=CC=C1 | C8H8N2
reactant | α-acetyl-N-phenyl-acetamide | C(C)(=O)CC(=O)NC1=CC=CC=C1 | C10H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-5-methyl-2-phenyl-4-phenylcarbamoylpyrrole | NC1=C(NC(=C1C(NC1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C18H17N3O
